US08389513B2
5-Cyclopropylmethoxy-pyrazine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 5-cyclopropylmethoxy-pyrazine-2-carboxylic acid following procedure I yielded the title compound as a white solid. MS (ISP): m/z=464.3 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C13H16F3N3O
reactant | 5-cyclopropylmethoxy-pyrazine-2-carboxylic acid | C1(CC1)COC=1N=CC(=NC1)C(=O)O | C9H10N2O3
product | 5-Cyclopropylmethoxy-pyrazine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC(C([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(N=C1)OCC1CC1)(F)F)(C)C | C22H24F3N5O3
